US07618980B2
Part B. (±)-cis Ethyl 6-methoxy-4-oxo-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,4-c]quinoline-3a-carboxylate
To a solution of diethyl 1-benzyl-4-(3-methoxy-2-nitrophenyl)pyrrolidine-3,3-dicarboxylate (200 mg, 0.44 mmol) in 20 mL of methanol was added 10% Pd/C catalyst (40 mg, 20% by wt). The mixture was placed on a Parr shaker under 50 psi of hydrogen for 18 h. The reaction was filtered through a pad of Celite and concentrated in vacuo. The residue was purified by flash chromatography (elution with 5% methanol/methylene chloride) to afford 77 mg (60%) of the title compound as a solid. LRMS (ESI): 291.2 (M+H)+.

reactant | diethyl 1-benzyl-4-(3-methoxy-2-nitrophenyl)pyrrolidine-3,3-dicarboxylate | 0.44 mmol, 200 mg | C(C1=CC=CC=C1)N1CC(C(C1)C1=C(C(=CC=C1)OC)[N+](=O)[O-])(C(=O)OCC)C(=O)OCC | C24H28N2O7
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | (±)-cis Ethyl 6-methoxy-4-oxo-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,4-c]quinoline-3a-carboxylate | 77 mg, 60% | COC1=CC=CC=2[C@@H]3[C@](C(NC12)=O)(CNC3)C(=O)OCC | C15H18N2O4
